Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Macrobid
 
Attending: ___.
 
Chief Complaint:
Shortness of breath; Transferred from outside hospital for 
possible post partum preeclampsia
 
Major Surgical or Invasive Procedure:
Echocardiogram which was normal
CT chest angiogram which was also normal

 
History of Present Illness:
___ yo G1P1002 presented on ___ at ___ s/p LTCS for breech 
presenting twins at
38+1wga. She had an uncomplicated antepartum and postpartum
course and was discharged home in good condition on POD#4. 

She had been at home in her usual state of health. Several days
ago she noticed a vague sensation of subjective shortness of
breath when lying flat. While talking with a friend, she
felt SOB. She felt like she could also feel her heart beating 
and she felt some discomfort between her shoulder blades. She 
attributed the back pain to constipation, as she has not had a 
BM since delivery. She did develop an increase in her leg 
swelling postpartum (extending up to mons and lower abdomen), 
but says that even since the day before admission it had been 
improving. She denied HA, visual changes, confusion, or RUQ 
pain. 

At ___ her initial BP was 146/85. It did get as high as
187/94. She received a 4gm bolus of magnesium then was started 
on
2g/hr. She received nitropaste as well. She was noted to be
bradycardic to 45 on presentation. In the ___ ED her initial 
BP
was 156/76, and was most recently in the 120s. She was been
re-started on magnesium, and also received two doses of 10mg IV
hydralazine. 

 
Past Medical History:
infertility
cesarian section
 
Social History:
married. Denies T/E/D

 
Physical Exam:
VS: On presentation to ED: T 99.1 HR 50 BP 123/75 O2Sat 96% on 
RA
Currently HR 70-80, BP 123/73, O2sat 97% on RA
NAD but is tearful
CN II-XII grossly intact
RRR, no m/r/g
CTAB posteriorly with good a/e
Abodomen softly distended, nontender, no r/g. +BS. Some erythema
over mons and pannus with mild edema noted.
Incision with steris c/d/i. Lochia minimal.
___ 2+ edema to just above knees b/l. NT.

 
Pertinent Results:
___ 06:50AM BLOOD WBC-7.7 RBC-3.60* Hgb-10.4* Hct-30.6* 
MCV-85 MCH-28.8 MCHC-33.9 RDW-14.9 Plt ___
___ 06:50AM BLOOD Neuts-76.4* Lymphs-16.9* Monos-4.6 
Eos-1.7 Baso-0.5
___ 06:50AM BLOOD Glucose-76 UreaN-12 Creat-0.7 Na-141 
K-4.2 Cl-107 HCO3-24 AnGap-14
___ 06:50AM BLOOD ALT-25 AST-29
___ 06:50AM BLOOD proBNP-466*
___ 06:50AM BLOOD UricAcd-6.2*
 
Brief Hospital Course:
Ms. ___ exam and history were concerning for postpartum 
cardiomyopathy vs. preeclampsia. BPs in ED here with max 164/81. 
Her BNP was borderline, and the preliminary echo report was of 
normal cardiac function. She was bradycardic on
presentation to ___ but at ___ had a normal pulse. She did 
not develop symptoms of preeclampsia and her labs were not 
suggestive of it, so the magnesium therapy was stopped.  
Peripartum cardiomyopathy was evaluated with echocardiogram, 
ekg, and chest x-ray: 

ECHO REPORT: The left atrium is normal in size. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). Tissue Doppler imaging suggests 
a normal left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic regurgitation. The 
mitral valve leaflets are structurally normal. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Mild mitral regurgitation in a structurally-normal 
valve. 

CXR: IMPRESSION: No large pleural effusion. Recommend lateral 
view if there is 
clinical justification to assess the volume of any pleural 
effusion. 

EKG: sinus bradycardia

Ms. ___ was admitted to the post-partum floor for close 
blood pressure monitoring and diuresis. She continued to improve 
and was discharged home in good condtion the following day. 

 
Medications on Admission:
Ibuprofen, percocet, colace

 
Discharge Medications:
1. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.  
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain.  
3. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for Constipation.  
4. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for Constipation.  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*0*
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fluid overload

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks
No heavy lifting for 6 weeks
No driving while taking percocet
It is important that you get rest and do not over exert yourself 
at home.
 
Please call if you develop any shortness of breath, chest pain, 
fever > 100.4, abdominal pain, increased redness or drainage 
from your incision, nausea/vomiting, heavy vaginal bleeding, or 
any other concerns.
 
Followup Instructions:
___